US04775692
To a stirred solution of dimethyl methylphosphonate (11.55 g, 0.093 mol) in 150 ml of anhydrous THF at -78° C. was added dropwise a solution of n-butyl lithium in hexane (1.67N, 56.1 ml, 0.094 mol) under argon atmosphere, and the mixture was stirred for 30 minutes. To this reaction mixture was added a solution of methyl cyclopentanecarboxylate (5.0 g, 0.039 mol) in 10 ml of anhydrous THF. After being stirred for 30 minutes, the reaction mixture was allowed to warm to 0° C. and stirred for 1 hour. The reaction mixture was diluted with 5.4 ml of acetic acid and 10 ml of water, and concentrated. 30 ml of water was added to the residue. The mixture was extracted with ethyl acetate (100 ml×2). The combined organic layers were washed with water (20 ml) and brine (20 ml), dried over anhydrous sodium sulfate, and concentrated. The residue was distilled under reduced pressure to give a colorless transparent oil of dimethyl 2-cyclopentyl-2-oxo-ethylphosphonate (7.65 g, 0.035 mol, yield 89.1%, b.p. 106°-108° C./0.2 mmHg), which was assigned the structure by the following data:

reactant | dimethyl methylphosphonate | 0.093 mol, 11.55 g | CP(OC)(OC)=O | C3H9O3P
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 0.094 mol, 1.67N, 56.1 ml | CCCCCC | C6H14
reactant | methyl cyclopentanecarboxylate | 0.039 mol, 5.0 g | C1(CCCC1)C(=O)OC | C7H12O2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 5.4 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
product | dimethyl 2-cyclopentyl-2-oxo-ethylphosphonate | 0.035 mol, 7.65 g, yield 89.1% | C1(CCCC1)C(CP(OC)(OC)=O)=O | C9H17O4P
